US04219660
Preparation of 3-methyl-4-nitro-2-butene-1-ol-3,5-dinitrobenzoate
To 0.1 Mol of 4-nitro-3-methyl-2-butenol in benzene was added 0.1 Mol of 3,5-dinitrobenzoylchloride and stirred overnight. The benzene was evaporated and the residue was stirred in sat. sodiumbicarbonate solution for 1 hour. The solid product was filtered and recrystallized first from alcohol water and then from ethylacetate/hexane. The product was obtained as a yellow crystalline material, m.p. 111°-113°.

reactant | 4-nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | 3,5-dinitrobenzoylchloride | 0.1 Mol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-nitro-2-butene-1-ol 3,5-dinitrobenzoate | CC(=CCO)C[N+](=O)[O-].[N+](=O)([O-])C=1C=C(C(=O)[O-])C=C(C1)[N+](=O)[O-] | InChI=1S/C7H4N2O6.C5H9NO3/c10-7(11)4-1-5(8(12)13)3-6(2-4)9(14)15;1-5(2-3-7)4-6(8)9/h1-3H,(H,10,11);2,7H,3-4H2,1H3/p-1
